US07446121B2
(Reference: J. Med. Chem. 1996, 549-555) To a solution of 1-(4-fluoro-phenyl)-4-isopropyl-1H-pyrazole-3,5-dicarboxylic acid 3-methyl ester (15.9 g, 51.8 mmol) in THF (300 mL) at 0° C. was slowly added BH3.THF (1.0 M solution in THF, 104 mL, 104 mmol; commercially available from Sigma Aldrich). The reaction was allowed to warm to 25° C. for 30 min and then heated to 65° C. for 3 hr. After cooling to 25° C., MeOH (50 mL) was slowly added. Subsequently, the solvent was removed under reduced pressure and a second portion of MeOH (100 mL) was slowly added and the solution was stirred at 25° C. for an additional 20 min. The MeOH was then evaporated and EtOAc was added and the organic layer was washed with 1N NaOH and brine prior to drying over Na2SO4. The organic layer was concentrated and purified by silica gel chromatography (15-35% EtOAc/Hex) to provide 1-(4-fluoro-phenyl)-5-hydroxymethyl-4-isopropyl-1H-pyrazole-3-carboxylic acid methyl ester (13.6 g, 90%): H-NMR (CDCl3) δ 7.59-7.56 (m, 2 H), 7.15-7.11 (m, 2 H), 4.57 (s, 2 H), 3.89 (s, 3 H), 3.66-3.62 (m, 1 H), 1.36 (d, 6 H).

reactant | 1-(4-fluoro-phenyl)-4-isopropyl-1H-pyrazole-3,5-dicarboxylic acid 3-methyl ester | 51.8 mmol, 15.9 g | COC(=O)C1=NN(C(=C1C(C)C)C(=O)O)C1=CC=C(C=C1)F | C15H15FN2O4
reactant | BH3.THF | B.C1CCOC1
reactant | MeOH | 50 mL | CO | CH4O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 1-(4-fluoro-phenyl)-5-hydroxymethyl-4-isopropyl-1H-pyrazole-3-carboxylic acid methyl ester | 13.6 g, 90% | COC(=O)C1=NN(C(=C1C(C)C)CO)C1=CC=C(C=C1)F | C15H17FN2O3
